US06492393B1
To a mixture of 2-nitro-4-tert-butyl phenol (5.4 g, 0.027 mol) and Et3N (5.85 mL, 0.042 mol) in methylene chloride (100 mL) at 0° C., triflic anhydride (5.2 mL, 0.030 mol) was added via addition funnel. The reaction was stirred at room temperature for 2 days, diluted with water (10 mL) and extracted with ethyl acetate (3×10 mL). The combined organic extracts were washed with brine and dried (MgSO4). Removal of the volatiles in vacuo afforded 8.8 g (97% yield) of trifluoromethanesulfonic acid 4-tert-butyl-2-nitro-phenyl ester, which crystallized in air.

reactant | 2-nitro-4-tert-butyl phenol | 0.027 mol, 5.4 g | [N+](=O)([O-])C1=C(C=CC(=C1)C(C)(C)C)O | C10H13NO3
reactant | Et3N | 0.042 mol, 5.85 mL | CCN(CC)CC | C6H15N
reactant | triflic anhydride | 0.030 mol, 5.2 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | trifluoromethanesulfonic acid 4-tert-butyl-2-nitro-phenyl ester | 8.8 g, 97% yield | C(C)(C)(C)C1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C11H12F3NO5S
